US05731322
(±)-trans-2-Benzylaminocarbonyl-3,6-dimethyl-8a-(3-hydroxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride
0.38 g of (±)-trans-2-benzylaminocarbonyl-3,6-dimethyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline were treated with 0.55 ml (5.7 mmol) of boron tribromide as described in example 2. The residue was dissolved in MeOH and the solution brought to acidic pH with HCl/Et2O. The solvent was evaporated in vacuo and the solid crystallised from a mixture of acetone/MeOH=1:1, yielding 0.15 g of the title compound. M.p.=297°-299° C. C27H31N3 O2.HCl I.R. (KBr): 3290, 2910, 1650, 1540, 1320cm-1

reactant | (±)-trans-2-benzylaminocarbonyl-3,6-dimethyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 0.38 g | C(C1=CC=CC=C1)NC(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)C)C2=CC(=CC=C2)OC)N1)C | C28H33N3O2
reactant | boron tribromide | 5.7 mmol, 0.55 ml | B(Br)(Br)Br | BBr3
reactant | HCl Et2O | Cl.CCOCC
solvent | MeOH | CO | CH4O
product | (±)-trans-2-Benzylaminocarbonyl-3,6-dimethyl-8a-(3-hydroxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | 0.15 g | Cl.C(C1=CC=CC=C1)NC(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)C)C2=CC(=CC=C2)O)N1)C | InChI=1S/C27H31N3O2.ClH/c1-18-23-14-21-17-30(2)12-11-27(21,20-9-6-10-22(31)13-20)15-24(23)29-25(18)26(32)28-16-19-7-4-3-5-8-19;/h3-10,13,21,29,31H,11-12,14-17H2,1-2H3,(H,28,32);1H/t21-,27+;/m1./s1
